US07256198B2
Step 3: 5′-{[(2S)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one
A mixture of 5-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione (13.41 g, 41.3 mmol), 1,3 propanediol (12.1 mL, 165 mmol, 4eq) and p-tolune sulfonic acid (3.14 g, 16.5 mmol, 0.4 mole %) in benzene (800 mL) was heated to reflux under a Dean Stark Trap for 5 hours and stirred overnight at room temperature. The mixture was washed with saturated aqueous NaHCO3 (3×300 mL), water (3×300 mL) and brine (3×300 mL), dried over sodium sulfate, filtered, and concentrated to give 10.7 g of crude product that was flash chromatographed (Biotage KP silica gel, step gradient 60/40-50/50 Pet Ether/EtOAc) to give the title compound as a white solid (7.1 g, 45% yield). Anal: Calc'd for C17H22N2O6S: C, 53.39; H, 5.80; N, 7.32; Found: C, 53.08; H,5.82; N, 6.92; NMR (400 MHz, DMSO-d6): consistent. IR: consistent. MS: (ES−) m/z 381 [M−H]. m.p: 127-128° C.

reactant | 5-{[(2S)-2-(methoxymethyl)pyrrolidin-1-yl]sulfonyl}-1H-indole-2,3-dione | 41.3 mmol, 13.41 g | COC[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C(C(NC2=CC1)=O)=O | C14H16N2O5S
reactant | 1,3 propanediol | 165 mmol, 12.1 mL, 4eq | C(CCO)O | C3H8O2
solvent | benzene | 800 mL | C1=CC=CC=C1 | C6H6
product | 5′-{[(2S)-2-(Methoxymethyl)pyrrolidin-1-yl]sulfonyl}spiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | 7.1 g, 45% yield | COC[C@H]1N(CCC1)S(=O)(=O)C=1C=C2C3(C(NC2=CC1)=O)OCCCO3 | C17H22N2O6S
